US09301951B2
(S)-tert-butyl 4-(2-(N-methyl-3-(4-(piperidin-1-yl)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)benzamido)ethyl)-1,4-diazepane-1-carboxylate
This compound was prepared according to the procedure described for the synthesis of Example 187 using tert-butyl 1,4-diazepane-1-carboxylate in place of L-proline-tert-butyl ester. Into a 50-mL round-bottom flask, was placed a solution of (S)—N1-methyl-N1-(2-oxoethyl)-N3-(4-(piperidin-1-yl)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide (100 mg, 0.16 mmol, 1.00 equiv) in ethanol (5 mL), tert-butyl 1,4-diazepane-1-carboxylate (50 mg, 0.25 mmol, 1.57 equiv), acetic acid (20 mg, 0.33 mmol, 2.10 equiv). The resulting solution was stirred for 0.5 h at room temperature. To the above was added NaBH3CN (20 mg, 0.32 mmol, 2.00 equiv). The resulting solution was allowed to react, with stirring, for an additional 3 h at room temperature. The resulting mixture was concentrated under vacuum. The pH value of the solution was adjusted to 8-9 with sodium bicarbonate. The resulting solution was extracted with 3×20 mL of ethyl acetate and the organic layers combined. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The crude product (100 mg) was purified by Prep-HPLC with the following conditions (1#-Waters 2767-3): Column, SunFire Prep C18, 19*150 mm 5 um; mobile phase, water with 0.05% TFA and CH3CN (25% CH3CN up to 43% in 6 min); Detector, Waters2545 UvDector 254&270 nm. 60.2 mg product was obtained. This resulted in 60.2 mg (47%) of (S)-tert-butyl 4-(2-(N-methyl-3-(4-(piperidin-1-yl)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenyl carbamoyl)benzamido)ethyl)-1,4-diazepane-1-carboxylate as a light yellow solid. LC-MS (ES, m/z): 814 [M+H]+ H-NMR (300 MHz, DMSO, ppm): 12.23 (s, 1H), 9.38 (s, 1H), 9.18 (d, J=8.4 Hz, 1H), 8.88 (d, J=5.1 Hz, 1H), 8.31 (s, 1H), 8.23 (d, J=7.8 Hz, 1H), 7.98 (d, J=6.3 Hz, 2H), 7.85 (d, J=5.1 Hz, 1H), 7.68-7.56 (m, 3H), 7.28-7.12 (m, 5H), 5.25 (d, J=6.0 Hz, 1H), 3.82-3.46 (m, 12H), 3.30 (s, 3H), 2.96-2.51 (m, 2H), 2.07-1.99 (m, 4H), 1.83-1.72 (m, 6H), 1.59 (d, J=4.2 Hz, 1H), 1.42 (s, 9H).

reactant | tert-butyl 1,4-diazepane-1-carboxylate | N1(CCNCCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | (S)—N1-methyl-N1-(2-oxoethyl)-N3-(4-(piperidin-1-yl)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide | 0.16 mmol, 100 mg, 1.00 equiv | CN(C(C1=CC(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C2=NC=CC(=C2)C(N[C@H]2CCCC3=CC=CC=C23)=O)=CC=C1)=O)CC=O | C38H39N5O4
reactant | tert-butyl 1,4-diazepane-1-carboxylate | 0.25 mmol, 50 mg, 1.57 equiv | N1(CCNCCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | acetic acid | 0.33 mmol, 20 mg, 2.10 equiv | C(C)(=O)O | C2H4O2
reactant | NaBH3CN | 0.32 mmol, 20 mg, 2.00 equiv | [BH3-]C#N.[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (S)-tert-butyl 4-(2-(N-methyl-3-(4-(piperidin-1-yl)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)benzamido)ethyl)-1,4-diazepane-1-carboxylate | 60.2 mg | CN(C(C1=CC(=CC=C1)C(NC1=C(C=C(C=C1)N1CCCCC1)C1=NC=CC(=C1)C(N[C@H]1CCCC2=CC=CC=C12)=O)=O)=O)CCN1CCN(CCC1)C(=O)OC(C)(C)C | C48H59N7O5
